US06303733B1
In a 1 Liter, round-bottom, three neck flask, a solution of 50 mL (0.51 Mol) ethynyltrimethylsilane, 1.5 g of palladium[II]acetate, 2.0 g of copper[I] iodide, 3.0 g of triphenylphosphine and 58 mL (0.52 Mol) of 4-bromofluorobenzene in 500 mL of de-aerated triethylamine were heated to 80° C. with stirring under an argon blanket for 2 hr. A white precipitate started to form after approximately 30 min. The reaction mixture was then cooled to 50° C. and stirred for an additional 2 h and then allowed to cool to room temperature with stirring overnight. The orange reaction mixture was filtered and a white precipitate of triethylamine hydrobromide was removed. The filtrate was concentrated by removal of the solvent. The residue was dissolved in 200 mL of dichloromethane and the resulting solution washed with water (3×150 mL), 5% HCl (3×150 mL), saturated sodium bicarbonate solution (3×150 mL), brine and then dried over sodium sulfate. After removal of the solvent, a clear oil was obtained 42.3 g (93%). The clear oil was further purified by dissolving the oil in 200 mL of methanol, to which 2 g of potassium carbonate was added with stirring. The stirring was continued overnight at ambient temperature. Upon distillation, 22.8 g, (0.19 Mol, 82%) of 1-ethynyl-4-fluorobenzene was obtained as a clear colorless liquid.

reactant | ethynyltrimethylsilane | 0.51 Mol, 50 mL | C(#C)[Si](C)(C)C | C5H10Si
reactant | 4-bromofluorobenzene | 0.52 Mol, 58 mL | BrC1=CC=C(C=C1)F | C6H4BrF
solvent | triethylamine | 500 mL | C(C)N(CC)CC | C6H15N
catalyst | triphenylphosphine | 3.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 1-ethynyl-4-fluorobenzene | 0.19 Mol, 82% | C(#C)C1=CC=C(C=C1)F | C8H5F
